US07678794B2
Synthesis of N-[3-(4-acetyl-3-hydroxy-2-propyl-phenoxymethyl)-phenyl]-3-cyano-benzenesulfonamide
Add 3-cyano-benzenesulfonyl chloride (673 mg, 3.34 mmol) to a solution of 1-[4-(3-amino-benzyloxy)-2-hydroxy-3-propyl-phenyl]-ethanone (1.00 g, 3.34 mmol) and pyridine (0.98 mL) in dichloromethane (20 mL) at 0° C. Warm to room temperature. Partition the mixture between dichloromethane and 2N hydrochloric acid (60 mL). Wash the organic layer with saturated sodium bicarbonate and brine. Dry and concentrate to afford the title compound as an orange solid (1.65 g): 1H NMR (DMSO-d6) δ 0.85 (t, 3H), 1.47 (sextet, 2H), 2.55 (t, 2H), 2.57 (s, 3H), 5.19 (s, 2H), 6.62 (d, 1H), 7.05 (d, 1H), 7.14 (d, 1H), 7.23 (s, 1H), 7.29 (t, 1H), 7.73 (t, 1H), 7.77 (d, 1H), 7.98 (d, 1H), 8.07 (d, 1H) 8.12 (s, 1H), 10.55 (s, 1H), 12.86 (s, 1H).

reactant | 3-cyano-benzenesulfonyl chloride | 3.34 mmol, 673 mg | C(#N)C=1C=C(C=CC1)S(=O)(=O)Cl | C7H4ClNO2S
reactant | 1-[4-(3-amino-benzyloxy)-2-hydroxy-3-propyl-phenyl]-ethanone | 3.34 mmol, 1.00 g | NC=1C=C(COC2=C(C(=C(C=C2)C(C)=O)O)CCC)C=CC1 | C18H21NO3
reactant | pyridine | 0.98 mL | N1=CC=CC=C1 | C5H5N
solvent | dichloromethane | 20 mL | ClCCl | CH2Cl2
product | N-[3-(4-acetyl-3-hydroxy-2-propyl-phenoxymethyl)-phenyl]-3-cyano-benzenesulfonamide | 1.65 g | C(C)(=O)C1=C(C(=C(OCC=2C=C(C=CC2)NS(=O)(=O)C2=CC(=CC=C2)C#N)C=C1)CCC)O | C25H24N2O5S
